* C:\Users\TCFH2003\Documents\!!PCB_Projects\Proiect1\simple_opamp.asc
M1 N002 In_p N004 N004 BS170
M2 N001 In_n N004 N004 BS170
M3 N004 N006 0 0 BS170
M4 N006 N006 0 0 BS170
R1 Vdd N006 5k
M5 N002 N001 Vdd Vdd BS250P
M6 N001 N001 Vdd Vdd BS250P
V1 Vdd 0 25
V2 In_p 0 SINE(10 10u 1k) AC 1
V3 In_n 0 SINE(10 0) AC 0
M7 N003 N002 Vdd Vdd BS250P
M8 Vdd N005 Vout Vout BS170
R2 N003 N005 5k
R3 N005 0 5k
R4 Vout 0 10k
C1 N002 N003 10p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\TCFH2003\AppData\Local\LTspice\lib\cmp\standard.mos
.inc "C:\Users\TCFH2003\Documents\LTspice\PSPICE_Models\BS170.lib"
.inc "C:\Users\TCFH2003\Documents\LTspice\PSPICE_Models\BS250P.lib"
* .tran 5m
.ac dec 10 10 1MEG
.backanno
.end
